Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Codeine / Moexipril
 
Attending: ___.
 
Chief Complaint:
Ruptured L iliac artery aneurysm
 
Major Surgical or Invasive Procedure:
Endovascular repair ruptured internal iliac aneurysm
 
History of Present Illness:
Vascular Surgery emergently consulted by ED for eval of active 
extravasation from iliac artery aneurysm. Pt was in usual state 
of health until yesterday evening, when she developed some dull 
lower abdominal pain with nausea. Upon awakening this morning, 
pt reported feeling lightheaded with standing, continued to have 
abdominal pain, contacted her son who brought her to ED. ED 
obtained CT A/P as part of workup for ? diverticulitis vs 
ischemic bowel, revealed active bleeding from iliac artery 
aneurysm. Pt does not report any symtpoms today other than as 
mentioned above. Interview was truncated in order to accommodate 
need for emergent operative intervention. 

 
Past Medical History:
Temporal arteritis, Seronegative rheumatoid
arthritis,  Osteopenia, Hypothyroidism, Hypertension,
Hyperlipidemia, Sarcoidosis, Osteoarthritis of the knees

PSH: Hysterectomy, appendectomy, cervical node
biopsy

 
Social History:
___
Family History:
NC
 
Physical Exam:
Exam on admission
Vitals: BP 144/86 HR 93 RR 20 O2 sat 98 RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, tender to palpation in lower quadrants,
no rebound or guarding,
normoactive bowel sounds, no palpable masses
Neuro: Grossly intact
Ext: No ___ edema, ___ warm and well perfused

Exam on discharge:
Vitals: 99.4  86  138/68  16  98%RA
Gen: AOx3, NAD
HEENT: sclera nonicteric, MMM
CV: RRR
Pulm: no respiratory distress
Abd: soft, nontender, nondistended, no rebound/guarding
Groin: bilateral groin puncture sites clean and dry
Pulses: R: P/D/D/D L: P/D/D/D
Neuro: no focal neurological deficits
 
Pertinent Results:
CT abd/pelvis ___
1. Ruptured, 7.3 cm, left internal iliac artery aneurysm with a 
large volume hemorrhage in the pelvis. 
2. 3.0 cm left common iliac artery aneurysm just proximal to the 
bifurcation. 
3. Hyperdense material within the distal colon could reflect 
ingested 
hyperdense material or reflect interposition of the collapsed 
bowel walls; 
however, intramural bleeding is not excluded. 
  
Labs
___ 11:52PM   GLUCOSE-154* UREA N-6 CREAT-0.5 SODIUM-133 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-23 ANION GAP-15
___ 11:52PM   CALCIUM-9.3 PHOSPHATE-2.5* MAGNESIUM-1.9
___ 11:52PM   HCT-34.7
___ 10:01PM   TYPE-ART PO2-106* PCO2-35 PH-7.44 TOTAL 
CO2-25 BASE XS-0
___ 10:01PM   GLUCOSE-139*
___ 09:23PM   ___ PH-7.47* COMMENTS-GREEN TOP
___ 09:23PM   freeCa-1.00*
___ 08:56PM   POTASSIUM-4.4
___ 08:56PM   MAGNESIUM-2.1
___ 08:56PM   HCT-33.6*#
___ 05:09PM   TYPE-ART O2-100 PO2-454* PCO2-38 PH-7.42 
TOTAL CO2-25 BASE XS-0 AADO2-209 REQ O2-44 VENT-CONTROLLED
___ 05:09PM   GLUCOSE-143* LACTATE-3.5* K+-3.1*
___ 05:09PM   HGB-8.1* calcHCT-24
___ 05:09PM   freeCa-1.00*
___ 04:56PM   GLUCOSE-153* UREA N-7 CREAT-0.5 SODIUM-134 
POTASSIUM-3.1* CHLORIDE-101 TOTAL CO2-24 ANION GAP-12
___ 04:56PM   CALCIUM-7.5* PHOSPHATE-2.7 MAGNESIUM-1.3*
___ 04:56PM   WBC-10.4* RBC-2.41*# HGB-7.8*# HCT-22.7*# 
MCV-94 MCH-32.4* MCHC-34.4 RDW-13.4 RDWSD-46.1
___ 04:56PM   PLT COUNT-130*
___ 04:56PM   ___ PTT-150* ___
___ 04:16PM   PO2-216* PCO2-48* PH-7.34* TOTAL CO2-27 BASE 
XS-0 INTUBATED-INTUBATED
___ 04:16PM   GLUCOSE-138* LACTATE-3.1* NA+-128* K+-3.2* 
CL--101
___ 04:16PM   HGB-8.4* calcHCT-25
___ 04:16PM   freeCa-1.00*
___ 02:45PM   TYPE-ART PO2-344* PCO2-37 PH-7.39 TOTAL 
CO2-23 BASE XS--1
___ 02:45PM   GLUCOSE-151* LACTATE-4.6* NA+-129* K+-3.3 
CL--99
___ 02:45PM   HGB-9.2* calcHCT-28
___ 02:45PM   freeCa-1.03*
___ 02:17PM   TYPE-ART PO2-237* PCO2-50* PH-7.32* TOTAL 
CO2-27 BASE XS-0
___ 02:17PM   GLUCOSE-160* LACTATE-4.0* NA+-128* K+-3.7 
CL--97
___ 02:17PM   HGB-11.3* calcHCT-34
___ 02:17PM   freeCa-1.04*
___ 02:17PM   WBC-15.3* RBC-3.31* HGB-10.7* HCT-30.9* 
MCV-93 MCH-32.3* MCHC-34.6 RDW-13.2 RDWSD-45.3
___ 02:17PM   NEUTS-82.0* LYMPHS-11.2* MONOS-6.1 EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-12.56*# AbsLymp-1.72 AbsMono-0.94* 
AbsEos-0.00* AbsBaso-0.02
___ 02:17PM   PLT COUNT-198
___ 02:17PM   PLT COUNT-198
___ 02:17PM   ___ PTT-32.6 ___
___ 02:17PM   ___ 10:45AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:45AM URINE  RBC-8* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:45AM URINE  HYALINE-37*
___ 10:45AM URINE  MUCOUS-MANY NSQ EPI-<1 
___ 08:08AM   LACTATE-3.3*
___ 08:00AM   cTropnT-<0.01
___ 08:00AM   WBC-11.5* RBC-3.81* HGB-12.3 HCT-36.1 MCV-95 
MCH-32.3* MCHC-34.1 RDW-13.2 RDWSD-45.1
___ 08:00AM   NEUTS-64.9 ___ MONOS-6.0 EOS-1.7 
BASOS-0.3 IM ___ AbsNeut-7.45* AbsLymp-3.04 AbsMono-0.69 
AbsEos-0.20 AbsBaso-0.03
___ 08:00AM   PLT COUNT-213
___ 08:00AM   ___ PTT-24.8* ___
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the Vascular Surgery Team. The patient was found to 
have a ruptured left iliac artery aneurysm and taken emergently 
to the operating room on ___ for endovascular repair 
ruptured internal iliac aneurysm, which the patient tolerated 
well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken to 
the PACU in stable condition. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications. The patient was given ___ 
antibiotics and anticoagulation per routine. The patient was 
noted on POD1 to have tachycardia, abdominal pain and rising WBC 
count and was started on Cipro/Flagyl for a 7 day course. She 
also complained of some distention-a KUB that showed no 
obstructive signs. Her symptoms improved by POD2. She has 
persistent sinus tachycardia despite negative work-up. She was 
therefore started on metoprolol 12.5 BID for rate control. 

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry, her groin site 
sable without expanding hematoma, and the patient had no issues 
voiding. The patient may ambulate as tolerated. She was 
discharge home with services after clearance from physical 
therapy. The patient will follow up with Dr. ___ in 2 weeks 
per routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Medications on Admission:
Alendroante 70mg weekly, folic acid 1mg', golimumab monthly, 
hctz 25', ketoconazole, levothyroxine 100mcg', methotrexate 15mg 
PO weekly (every ___, nystatin powder, prednisone 5mg', 
apap 650', vitamins
 
Discharge Medications:
1. Acetaminophen 650 mg PO TID pain 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0
2. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
3. Ciprofloxacin HCl 500 mg PO/NG Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
12 hours Disp #*11 Tablet Refills:*0
4. PredniSONE 5 mg PO DAILY 
5. MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 8 
hours Disp #*16 Tablet Refills:*0
6. Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*2
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Alendronate Sodium 70 mg PO WEEKLY 
10. golimumab 12.5 mg/mL injection Monthly 
11. Hydrochlorothiazide 25 mg PO DAILY 
12. Ketoconazole 2%  1 Appl TP BID apply topically twice a day 
to left foot 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ruptured Left iliac artery aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized for a ruptured left iliac aneurysm which 
was repaired on ___. You did well after the operation and you 
are now ready for discharge home. Please see the following 
directions regarding your post-hospitalization care.

MEDICATIONS:  
_x0095_ Continue all other medications you were taking before surgery, 
unless otherwise directed 
_x0095_ You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT AT HOME: 
 It is normal to have slight swelling of the legs: 
_x0095_ Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night 
_x0095_ Avoid prolonged periods of standing or sitting without your 
legs elevated 
 It is normal to feel tired and have a decreased appetite, your 
appetite will return with time  
_x0095_ Drink plenty of fluids and eat small frequent meals 
_x0095_ It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing 
_x0095_ To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES: 
_x0095_ When you go home, you may walk and go up and down stairs 
_x0095_ You may shower (let the soapy water run over groin incision, 
rinse and pat dry) 
_x0095_ Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed 
_x0095_ No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal) 
_x0095_ After 1 week, you may resume sexual activity 
_x0095_ After 1 week, gradually increase your activities and distance 
walked as you can tolerate 
_x0095_ No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___ 
_x0095_ Numbness, coldness or pain in lower extremities  
_x0095_ Temperature greater than 101.5F for 24 hours 
_x0095_ New or increased drainage from incision or white, yellow or 
green drainage from incisions 
_x0095_ Bleeding from groin puncture site

 

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision) 
_x0095_ Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room.  

Sincerely, 
___ Vascular Surgery 

 
Followup Instructions:
___